US06770647B2
(1a) 2,3-bis (chloromethyl)pyrazine
To a solution of 2,3-dimethylpyrazine (6.27 g, 57.4 mmol) in 100 mL of carbon tetrachloride was added N-chlorosuccinimide (16.7 g) followed by benzoyl peroxide (278 mg, 2 mol %) and the solution was heated to reflux for 16 h. The reaction was cooled, more benzoyl peroxide (278 mg, 2 mol %) was added and the reaction was refluxed for 5 h. The reaction was monitored by TLC until the disappearance of starting pyrazine. The reaction flask was cooled in an ice bath, the solution filtered, and the eluent was concentrated and chromatographed on SiO2 using 15% EtOAc in hexane. Obtained 1.14 g of the product (11% yield). MS found: (M+H)+=178.

reactant | 2,3-dimethylpyrazine | 57.4 mmol, 6.27 g | CC1=NC=CN=C1C | C6H8N2
reactant | N-chlorosuccinimide | 16.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | 278 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzoyl peroxide | 278 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | pyrazine | N1=CC=NC=C1 | C4H4N2
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3-bis (chloromethyl)pyrazine | 1.14 g, 11% yield | ClCC1=NC=CN=C1CCl | C6H6Cl2N2
